US04978476
A. 4-(N-6-hydroxyhexyl-N-ethylamino)benzaldehyde
To a three-neck flask fitted with a mechanical stirrer, a thermometer, and a condenser is added 124.0 g (1 mole) of 4-fluorobenzaldehyde, 117.2 g (1 mole) of 6-amino-1-hexanol, 276.4 g (2 mole) of potassium carbonate, and dimethylsulfoxide. The reaction mixture is heated at 95° C. for about 3 hours until thin-layer chromatography indicates no more 4-fluorobenzaldehyde is present After cooling to room temperature, 156 g (1 mole) of ethyl iodide is added dropwise, and the reaction is stirred at room temperature for 5 hours The solution is poured into a four-fold excess of ice water, and the solid product is collected by filtration and purified by recrystallization from water.

reactant | 4-fluorobenzaldehyde | 1 mole, 124.0 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 6-amino-1-hexanol | 1 mole, 117.2 g | NCCCCCCO | C6H15NO
reactant | potassium carbonate | 2 mole, 276.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 1 mole, 156 g | C(C)I | C2H5I
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-(N-6-hydroxyhexyl-N-ethylamino)benzaldehyde | OCCCCCCN(CC)C1=CC=C(C=O)C=C1 | C15H23NO2
